US04129572
(b) Preparation of 3-methoxy-4-benzenesulphonyloxy-acetophenone-phenylhydrazone
Into a reactor, equipped with a Dean-Stark separator, were introduced 100 ml of benzene, 1 ml of acetic anhydride, 10.8g (0.1 mol) of phenylhydrazine and 30.6 g (0.1 mol) of 3-methoxy-4-benzenesulphonyloxy-acetophenone. The reaction medium was stired and refluxed for 1 hour.

reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | phenylhydrazine | 0.1 mol, 10.8g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 3-methoxy-4-benzenesulphonyloxy-acetophenone | 0.1 mol, 30.6 g | COC=1C=CC=CC1S(=O)(=O)OCC(=O)C1=CC=CC=C1 | C15H14O5S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-methoxy-4-benzenesulphonyloxy-acetophenone-phenylhydrazone | C1(=CC=CC=C1)NN=C(COS(=O)(=O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C21H20N2O4S
